US07429609B2
3-Bromo-1H-pyrazolo[4,3-c]pyridine
To a solution of 3.85 g of 1H-pyrazolo[4,3-c]pyridine in 50 mL of N,N-dimethylformamide was added 6.04 g of N-bromosuccinimide at room temperature and stirred at this temperature for 2 hours. Adding 10 mL of 10% sodium thiosulfate aqueous solution, the solution was diluted with ethyl acetate. The organic layer was washed successively with saturated aqueous ammonium chloride and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated, to afford 4.69 g of the title compound as pale red-brown crystals.

reactant | 1H-pyrazolo[4,3-c]pyridine | 3.85 g | N1N=CC=2C=NC=CC21 | C6H5N3
reactant | N-bromosuccinimide | 6.04 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium thiosulfate | 10 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-1H-pyrazolo[4,3-c]pyridine | 4.69 g | BrC1=NNC2=C1C=NC=C2 | C6H4BrN3
